US04590201
A refluxing solution of 3-(4-chlorobenzoyl)-4-chlorotoluene (5.3 g, 20. mmol) and dibenzoylperoxide (200 mg, 0.83 mmol) in benzene (200 ml) was treated in portions with N-bromosuccinimide (4.4 g, 25. mmol) over 20 minutes. The mixture was refluxed 15 hours, cooled and filtered. The filtrate was evaporated under vacuum, triturated with diethyl ether (150 ml), filtered, and evaporated under vacuum. The residue was chromatographed on silica gel (500 g) eluted with 97:3 (v/v) n-hexane-ethyl acetate using a preparative high-performance liquid chromatograph to provide 3.47 g (50%) of 3-(4-chlorobenzoyl)-4-chlorobenzyl bromide, m.p. 81°-83° C.

reactant | 3-(4-chlorobenzoyl)-4-chlorotoluene | 5.3 g | ClC1=CC=C(C(=O)C=2C=C(C=CC2Cl)C)C=C1 | C14H10Cl2O
reactant | N-bromosuccinimide | 4.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | dibenzoylperoxide | 0.83 mmol, 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-(4-chlorobenzoyl)-4-chlorobenzyl bromide | 3.47 g, 50% | ClC1=CC=C(C(=O)C=2C=C(CBr)C=CC2Cl)C=C1 | C14H9BrCl2O
